US06518265B1
4-Chloro-1-[2-[N-(4-fluorophenylsulfonyl )-4-piperidyl]ethyl]-1H-imidazo-[4,5-c]quinoline
To a suspension of 0.50 g of 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate and 0.32 g of potassium carbonate in 2 ml of N,N-dimethylformamide, a solution of 0.23 g of p-fluorobenzenesulfonyl chloride in 3 ml of N,N-dimethylformamide was added dropwise at room temperature, and the mixture was stirred for 5 hours. The reaction mixture was adjusted to pH 10 with 10% aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried, and then the solvent was evaporated to give 0.35 g of a colorless solid. Recrystallization from a mixture of methanol, ethanol and water gave colorless crystals having the melting point of from 175 to 178.5° C.

reactant | 4-chloro-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline trifluoroacetate | 0.50 g | FC(C(=O)O)(F)F.ClC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2
reactant | potassium carbonate | 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluorobenzenesulfonyl chloride | 0.23 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-1-[2-[N-(4-fluorophenylsulfonyl )-4-piperidyl]ethyl]-1H-imidazo-[4,5-c]quinoline | 0.35 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)F | C23H22ClFN4O2S
